US08937185B2
To the solution of 2-fluoro-4-(trifluoromethyl)benzoic acid (1 kg, 4.805 mol, 1.00 equivalent “eq.”) and CuCl (14.26 g, 0.144 mol, 0.03 eq.) in t-BuOH (11.7 L) was added triethylamine (TEA, 533.8 g, 5.286 mol, 1.10 eq.) dropwise at room temperature (rt). Then the solution was heated to 50° C. and diphenylphosphoryl azide (DPPA, 1393 g, 5.045 mol, 1.05 eq.) was added dropwise to the solution at 50-60° C. After heating at 80-85° C. overnight the solution was concentrated under vacuum. The residual was dissolved in H2O and filtered. The filtrate was extracted with ethyl acetate. The organic layers was dried with Na2SO4, filtered and concentrated under vacuum. The residual was dissolved in tent-Butyl methyl ether (TBME) and HCl (gas) was bubbled in for 2 hours. The filtrate was collected and dissolved in water and basified with 2 M NaOH. The solution was extracted with TBME. The organic layers were dried and concentrated under vacuum to give 2-fluoro-4-(trifluoromethyl)aniline (498 g, 58%) as a red oil.

reactant | 2-fluoro-4-(trifluoromethyl)benzoic acid | 4.805 mol, 1 kg, 1.00 equivalent | FC1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C8H4F4O2
reactant | triethylamine | 5.286 mol, 533.8 g, 1.10 eq. | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 5.045 mol, 1393 g, 1.05 eq. | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | t-BuOH | 11.7 L | CC(C)(C)O | C4H10O
catalyst | CuCl | 0.144 mol, 14.26 g, 0.03 eq. | Cl[Cu]
product | 2-fluoro-4-(trifluoromethyl)aniline | 498 g, 58% | FC1=C(N)C=CC(=C1)C(F)(F)F | C7H5F4N
